US06166203
A mixture of 3-amino-2-thiophenecarboxylic acid (8 g, 49 mmol), ethyl 4-fluorobenzoylacetate (9.6 g, 49 mmol), and p-toluenesulfonic acid monohydrate (0.2 g, 1 mmol) in toluene (100 mL) is refluxed for 20 hours with a Dean-Stark water trap to remove produced water. The mixture is cooled to room temperature. The resulting precipitate is filtered and washed with diethyl ether. The solid is dissolved in diphenyl ether (80 mL) and heated at 220° C. for 2 hours. The reaction solution is then cooled to room temperature and diluted with diethyl ether; the precipitate is filtered and washed with diethyl ether to give 5-(4-fluorophenyl)-thieno[3,2-b]pyridin-7-ol (2 g, 17% yield) as brown crystalline needles, m.p. 316-318° C.

reactant | 3-amino-2-thiophenecarboxylic acid | 49 mmol, 8 g | NC1=C(SC=C1)C(=O)O | C5H5NO2S
reactant | ethyl 4-fluorobenzoylacetate | 49 mmol, 9.6 g | FC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11FO3
reactant | p-toluenesulfonic acid monohydrate | 1 mmol, 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-fluorophenyl)-thieno[3,2-b]pyridin-7-ol | 2 g, 17% yield | FC1=CC=C(C=C1)C1=CC(=C2C(=N1)C=CS2)O | C13H8FNOS
